US05859248
A solution of 50 g of a 97.2:2.8 mixture of the (4S,5S):(4S,5R) isomers of 4-benzyl-2-oxo-oxazolidine-5-carboxylic acid in 300 ml of methanol was combined with 1 ml of sulphuric acid and refluxed for 3.5 hours. The solution was cooled to 0° C. and adjusted to pH 7 with a solution of 30% sodium methoxide in methanol. 10.26 g of sodium borohydride were added to the solution at 0°-3° C. After 1 hour's stirring at 0° C., the suspension is adjusted to pH 1 at 0°-20° C. with 25% hydrochloric acid. After the addition of water and stirring at -10° C., the suspension is filtered. 41.5 g (89%) of 99% (4S,5S)-4-benzyl-5-hydroxymethyl-oxazolidin-2-one, melting point 168°-171° C., [α]D20 : -79.1° (1% in methanol), were obtained.

reactant | 4-benzyl-2-oxo-oxazolidine-5-carboxylic acid | C(C1=CC=CC=C1)C1NC(OC1C(=O)O)=O | C11H11NO4
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium borohydride | 10.26 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
solvent | water | O | H2O
product | (4S,5S)-4-benzyl-5-hydroxymethyl-oxazolidin-2-one | 41.5 g | C(C1=CC=CC=C1)[C@@H]1NC(O[C@@H]1CO)=O | C11H13NO3
